US07557112B2
A mixture of 1-tert-butoxycarbonylpiperidine-4-ol, triethylamine, benzenesulfonyl chloride and methylene chloride was stirred for two days at room temperature to give 1-tert-butoxycarbonylpiperidine-4-ylbenzenesulfonate. A mixture of the obtained 1-tert-butoxycarbonylpiperidine-4-ylbenzenesulfonate, diethyl malonate, 20% sodium ethoxide-EtOH solution and EtOH was stirred for 22 hours heated to reflux to give diethyl[1-(tert-butoxycarbonyl)piperidine-4-yl]malonate. A mixture of the obtained diethyl[1-(tert-butoxycarbonyl)piperidine-4-yl]malonate, lithium borohydride, toluene and THF was stirred for 18 hours at 60° C. to give 2-(1-tert-butoxycarbonylpiperidine-4-yl)propane-1,3-diol. A mixture of the obtained 2-(1-tert-butoxycarbonylpiperidine-4-yl)propane-1,3-diol, 4M HCl-dioxane solution and MeOH was stirred for one hour at room temperature to give 2-piperidine-4-ylpropane-1,3-diol hydrochloride.

reactant | 1-tert-butoxycarbonylpiperidine-4-ylbenzenesulfonate | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=C(C=CC=C1)S(=O)(=O)[O-]
reactant | diethyl malonate | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium ethoxide EtOH | [O-]CC.[Na+].CCO
solvent | EtOH | CCO | C2H6O
product | diethyl[1-(tert-butoxycarbonyl)piperidine-4-yl]malonate | C(C)OC(C(C(=O)OCC)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C17H29NO6
